US08022063B2
4-Bromo-2-formylphenoxyacetic acid ethyl ester (1.44 g, 5 mmol) was dissolved in dichloromethane (50 mL) and glycine ethyl ester hydrochloride (1.39 g, 10 mmol) as well as Et3N (1.4 mL, 10 mmol) was added. The mixture was stirred at room temperature for 4 h. Water and dichloromethane was added and the organic phase was passed through a phase separation filter and then evaporated to give {4-bromo-2-[(E)-ethoxycarbonylmethyliminomethyl]phenoxy}acetic acid ethyl ester, which was redissolved in dichloromethane (50 mL) and treated with NaBH(OAc)3 (2.11 g, 10 mmol) and AcOH (1 mL), and then stirred at room temperature for 5 h. Saturated Na2CO3, water and dichloromethane was added, and the organic phase was passed through a phase separation filter and evaporated to give the title compound (1.56 g, 84% overall yield).

reactant | 4-Bromo-2-formylphenoxyacetic acid ethyl ester | 5 mmol, 1.44 g | C(C)OC(COC1=C(C=C(C=C1)Br)C=O)=O | C11H11BrO4
reactant | glycine ethyl ester hydrochloride | 10 mmol, 1.39 g | Cl.C(C)OC(CN)=O
reactant | Et3N | 10 mmol, 1.4 mL | CCN(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | {4-bromo-2-[(E)-ethoxycarbonylmethyliminomethyl]phenoxy}acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)/C=N/CC(=O)OCC)=O | C15H18BrNO5
